US07994185B2
N-[3-(2-(1,1-Dimethylethyl)-5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)phenyl]-2,5-difluorobenzenesulfonamide
A suspension of N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide (150 mg, 0.288 mmol) and isobutylamine (1 mL, 10.06 mmol) was stirred at rt overnight. The reaction mixture was diluted with DCM and washed with dilute aqueous HCl. The DCM extract was dried over MgSO4, filtered, evaporated onto silica gel and chromatographed (0-20% MeOH in DCM). The title compound was obtained as a yellow solid (75 mg, 44% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.87 (s, 1H), 7.96 (d, J=5.2 Hz, 1H), 7.40-7.62 (m, 3H), 7.23-7.33 (m, 2H), 7.20 (s, 1H), 7.14 (d, J=7.7 Hz, 2H), 6.00 (br. s., 1H), 2.85-3.11 (m, 2H), 1.67-1.87 (m, 1H), 1.36 (s, 9H), 0.82 (d, J=6.4 Hz, 6H). MS (ESI): 558.0 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide | 0.288 mmol, 150 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C23H19ClF2N4O2S2
reactant | isobutylamine | 10.06 mmol, 1 mL | C(C(C)C)N | C4H11N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[3-(2-(1,1-Dimethylethyl)-5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)phenyl]-2,5-difluorobenzenesulfonamide | CC(C)(C)C=1SC(=C(N1)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)C1=NC(=NC=C1)NCC(C)C | C27H29F2N5O2S2
